US07977327B2
(3S)-3-(tert-Butoxycarbonyl)amino-4-ethylpyrrolidine
A 10% palladium carbon catalyst (15 mg) was added to a solution of (3S)-1-benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-vinylpyrrolidine [an isomer mixture of (4S)-form: (4R)-form (1:4)] (230 mg, 0.66 mmol) in ethanol (8 mL), followed by stirring in a hydrogen atmosphere under an ordinary pressure at room temperature for 12 hours. After filtration, the filtrate was concentrated under reduced pressure, to thereby yield the title compound (an isomer mixture of (4S)-form and (4R)-form (1:4)) as a colorless oily substance (148 mg, 100%).

reactant | (3S)-1-benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-vinylpyrrolidine | C(C1=CC=CC=C1)OC(=O)N1C[C@H](C(C1)C=C)NC(=O)OC(C)(C)C | C19H26N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 15 mg | [C].[Pd]
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | (3S)-3-(tert-Butoxycarbonyl)amino-4-ethylpyrrolidine | C(C)(C)(C)OC(=O)N[C@@H]1CNCC1CC | C11H22N2O2
